US07205292B2
Step B. 3-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-(1H)-one
3-(1-Benzyl-4-hydroxypiperidin-4-yl)-2-chloroquinoline (11.0 g, 31.1 mmol) was refluxed in 6 N hydrochloric acid for 8 h. The solution was cooled and water (100 mL) added. The precipitated solid was collected and dried to give the title compound, 7.9 g. MS 317 (M+1). 1H NMR (500 MHz, CD3OD) δ 7.97 (s, 1H), 7.70 (d, J=7 Hz, 1H), 7.60 (m, 2H), 7.55 (m, 4H), 7.35 (d, J=9 Hz, 1H), 7.27 (t, J=8 Hz, 1H), 6.50 (m, 1H), 4.49 (ABq, J=13 Hz, Δv=16 Hz, 2H), 3.92 (m, 2H), 3.76 (dt, J=12.4 Hz, 1H), 3.40 (m, 1H), 2.96 (m, 2H).

reactant | 3-(1-Benzyl-4-hydroxypiperidin-4-yl)-2-chloroquinoline | 31.1 mmol, 11.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C=1C(=NC2=CC=CC=C2C1)Cl | C21H21ClN2O
reactant | water | 100 mL | O | H2O
solvent | hydrochloric acid | 6 N | Cl | ClH
product | 3-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-(1H)-one | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C(NC2=CC=CC=C2C1)=O | C21H20N2O
